Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Zantac / Morphine / Tylenol / Naprosyn / ketorolac 
/ h2 antagonists / red dye / salicylates cross reactors
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old patient with history of ESRD, BPAD, CAD and chronic 
pain with multiple admissions here for chest and abdominal pain 
and multiple CTAs and abdominal imaging as well as recent benign 
persantine stress (___) who was admitted yesterday to 
___ with chest pain. According to the patient, she 
woke up in the middle of the night with chest pain as if someone 
was sitting on her chest. It was non-radiating. She had 
associated nausea and vomiting, but no SOB, palpitations, 
diaphoresis. Not associated with cough or deep inspiration, not 
positional in nature. She was sent to ___ for 
further eval. There EKG was unchanged from prior, CXR was 
negative and chest pain resolved with nitro. She went for 
Dialysis on hospital day 2 and she had a recurrence of the same 
chest pain although this time she had numbness and tingling down 
her left arm. The pain was not relieved with NTG this time, but 
was with dilaudid. Her symptoms resolved. While at ___, her 
troponins were negative. She was seen by cardiology at ___ 
consulted and due to patient's extensive cardiac history (with 
multiple MI's per their report) they started her on a heparin 
drip and transferred her to ___ for cardiac catheterization.  
 
All vital signs have been stable throughout admission and 
cardiac enzymes negative with no EKG change. Cardiology at ___ 
was made aware of the transfer, but not officially consulted.  

 
Past Medical History:
1. Hypotension (likely mineralocorticoid deficient, hypo-renin, 
hypo-aldosterone, not likely complete adrenal insufficiency vs. 
autonomic dysfunction on Florinef)  
2. ESRD on HD ___ (RUE AV-fistula)  
3. type 2 diabetes mellitus  
4. coronary artery disease (inferior MI, cardiac cath ___, EF 
65%, inferior hypokinesis; MIBI ___ no perfusion defects, no 
ischemic ST changes)  
5. h/o LLE DVT (no longer on coumadin), popliteal DVT (___) 
s/p IVC filter placement  
6. hypertension  
7. GERD  
8. h/o positive MRSA swab (___)  
9. hyperlipidemia  
10. chronic abdominal pain (no etiology identified, extensive 
work-up including MRA abdomen, strongyloides serologies, RUQ 
U/S, multiple KUBs)  
11. borderline personality disorder  
12. drug-seeking behavior, ? suicidality  
13. left eye prosthesis (followed by ophthalmology at ___)  
14. Bilateral IJ and SC DVTs  

 
Social History:
___
Family History:
Extensive family h/o DMII with significant morbidity/mortality 
from DM complications in her immediate family.  

 
Physical Exam:
VS - 98.6 97.3 108/60 (108-130/60-80) 64 (___) 18 99%RA 
FSG: 65->95->180->144-> 155 
GENERAL - well-appearing in NAD, comfortable, no acute distress  

HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG, pain not 
reproducible on palpation  
CHEST: no pain with palpation
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), palpable thrill over right bicep  
SKIN - multiple scars on upper chest  
NEURO - awake, A&Ox3, CNs II-XII grossly intact,
 
Pertinent Results:
___ 08:00AM BLOOD WBC-5.7 RBC-4.16* Hgb-12.3 Hct-40.1 
MCV-96 MCH-29.6 MCHC-30.7* RDW-15.6* Plt ___
___ 08:00AM BLOOD ___ PTT-43.8* ___
___ 08:00AM BLOOD Glucose-184* UreaN-27* Creat-8.7* Na-132* 
K-4.2 Cl-92* HCO3-27 AnGap-17
___ 08:00AM BLOOD Calcium-9.4 Phos-5.3* Mg-2.7*

From ___
TROPONIN I:
___ 1500 ___ < 0.06  
___ 0940 ___ < 0.06  
___ 2218 ___ < 0.06  
___ 1158 ___ < 0.06  

D-DIMER:
___ 1158 ___  < 200.0  (___ female with ESRD on HD (MWF), DM II, HTN, CAD, 
schizophrenia and concern for drug seeking behavior transferred 
to ___ from ___ for further work up of her chest pain.  
.  
# Chest Pain: The patient was transferred from ___ 
for further evaluation of her chest pain on a heparin gtt.  
Starting her on a heparin gtt was a curious choice given her 4 
negative sets of cardiac enzymes and negative D-Dimer. Patient 
has had extensive cardiac work up in the recent past including a 
negative stress on ___.  EKG obtained on admission to ___ 
was unchanged from prior. Moreover, she had a recent CTA on 
___ that was negative for a PE when she presented with 
similar vitals and symptoms.  Pain is not reproducible making 
MSK or costochondritis unlikely. HPI not consistent with GI 
source although given her extensively negative cardiac work-up, 
she should follow up with GI for further evaluation.  She 
already has an appointment scheduled for ___. 
 
# ESRD: Receives HD on ___. Has AV fistula on right 
arm.  She will f/u with HD per outpatient schedule.

# OSA: She was continued on her CPAP.
   
# Type II DM: Continued on home insulin regimen. Lantus 18units 
qhs and HISS  
 
# CAD: Was continued on home dose of aspirin and statin.  She is 
reportedly not on acei or BB secondary to autonomic dysfunction 
and hypotension.  She should follow up with cardiology given her 
CAD and prior MI.   
.  
# h/o Hypotension: The patient has a h/o hypotension thought to 
be due to autonomic dysfunction and she was continued on her 
home dose of florinef and midodrine.  She was normotensive 
during her hospital course.
 
Medications on Admission:
- zolpidem 5 mg Tablet Sig: ___ Tablets PO HS:PRN  
- aspirin 81 mg Tablet Daily  
- lorazepam 1 mg PO PRN dialysis days.  
- atorvastatin 40 mg PO HS  
- dicyclomine 10 mg Capsule Sig: Two (2) Capsule PO QID  
- docusate sodium 100 mg PO BID  
- Bisacodyl 5mg PO QHS  
- erythromycin 250 mg PO Q 8H  - only for 3 days (should be d/c)
- fludrocortisone 0.1 mg PO twice a day.  
- folic acid 1 mg DAILY  
- insulin lispro 100 unit/mL Solution Sig: As directed. 
Subcutaneous with meals.  
- Lantus 100 unit/mL Solution Sig: 18 units QHS  
- lidocaine 5 % Cream Sig: One (1) appl Topical four times a  
day.  
- midodrine 5 mg PO three times a day.  
- polyethylene glycol 17 gram/dose PO QID  
- B complex-vitamin C-folic acid 1 mg PO DAILY  
- gabapentin 100 mg Capsule PO Q HD.  
- omeprazole 40 mg Capsule, PO once a day.  
- tizanidine 2 mg Tablet Sig: 0.5 Tablet PO once a day.  
- latanoprost 0.005 % Drops Sig: One (1) drop Ophthalmic at  
bedtime.  
- hydroxyzine HCl 25 mg ___ Tablets PO Q6H:PRN itching  
- lorazepam 1 mg PO QHS:PRN for anxiety.  
- sevelamer carbonate 800 mg PO TID W/MEALS  
- lactulose 10 gram Packet Sig: Two (2) PO once a day as  
needed for constipation.  
- nitroglycerin 0.4 mg SL Q5 minute PRN chest pain, up to 3 
doses max.  

 
Discharge Medications:
1. zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. lorazepam 1 mg Tablet Sig: One (1) Tablet PO QHD DAYS () as 
needed for anxiety.  
4. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. dicyclomine 10 mg Capsule Sig: Two (2) Capsule PO QID (4 
times a day).  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO HS (at bedtime).  
8. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
9. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. insulin lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous use as directed.  
11. Lantus 100 unit/mL Solution Sig: Eighteen (18) units 
Subcutaneous at bedtime.  
12. lidocaine 5 % Cream Sig: One (1)  Topical four times a day.  

13. midodrine 5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
14. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO QID (4 times a day) as needed for 
constipation.  
15. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
16. gabapentin 100 mg Capsule Sig: One (1) Capsule PO QHD (each 
hemodialysis).  
17. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
18. tizanidine 2 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
19. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
20. hydroxyzine HCl 25 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
21. sevelamer carbonate 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
22. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily) as needed for constipation.  
23. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

24. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for heartburn.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Chest pain, NOS

Secondary Diagnosis:
Type 1 Diabetes Mellitus
Coronary Artery Disease
End-stage renal disease on hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ for 
further management of you chest pain.  This chest pain is not 
caused by your heart or from an heart attack based on extensive 
laboratory data.  It is important that you follow up with both 
cardiologist and your primary care doctor for further management 
of your chest pain.  Your chest pain could be related to your 
gastrointestional tract. Please follow up with your scheduled 
gastroenterology appointment (see below)

Medication Changes:
STOP taking erythromycin
Please continue to take all your other medications as prescribed
 
Followup Instructions:
___